US06767912B2
Preparation of 1-Benzenesulfonyl-3-piperidin-3-yl-1H-indole
A solution of 3-(1H-indol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (75 mg, 0.25 mmol) and phenylsulfonyl chloride (50 mg, 0.27 mmol) in tetrahydrofuran (THF) at room temperature is treated with potassium tert-butoxide (0.275 mL, 1 M solution in THF, 0.275 mmol), shaken at room temperature for 16 hours, treated with HCl (4 N in dioxane, 0.5 mL), shaken for 2 hours and concentrated in vacuo to give a residue. Purification of the residue by HPLC1 affords the title product, characterized by HPLC and mass spectral analyses [M+H] 341.45, LCMS2 retention time 1.67 min.

reactant | 3-(1H-indol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.25 mmol, 75 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CNC2=CC=CC=C12 | C18H24N2O2
reactant | phenylsulfonyl chloride | 0.27 mmol, 50 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | potassium tert-butoxide | 0.275 mmol, 1 M, 0.275 mL | CC(C)([O-])C.[K+]
reactant | HCl | 4 N, 0.5 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Benzenesulfonyl-3-piperidin-3-yl-1H-indole | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1CNCCC1 | C19H20N2O2S
